US07842821B2
70% ethylamine in water (12.7 mL) and methanol (50 mL) are mixed. It is cooled to 0-5° C. 4-nitrobenzenesulfonyl chloride (10 g) is added portion-wise maintaining the temperature under 5° C. It is stirred for 15 minutes, maintaining the temperature, until the transformation is complete. Water (100 mL) is added. It is stirred for 30 minutes maintaining the temperature under 5° C. The reaction mixture is filtered, the isolated solid is washed with water and dried, obtaining 8.99 g of N-ethyl-4-nitrobenzene-sulfonamide.

reactant | ethylamine | C(C)N | C2H7N
reactant | 4-nitrobenzenesulfonyl chloride | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 12.7 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | Water | 100 mL | O | H2O
product | N-ethyl-4-nitrobenzene-sulfonamide | 8.99 g | C(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O4S
